US06492416B1
3.05 g of 1-{2-chloro-4-(methylthio)phenyl}-2-phenyl-ethanone in 60 ml dry THF was stirred at 0° C. for 20 minutes in the presence of 95% oil dispersion of sodium hydride (1.0 g), which was followed by dropwise addition of α-bromoisobutyryl cyanide (2.5 ml) diluted in 50 ml THF. The reaction solution was allowed to warm slowly to room temperature and was stirred overnight. Then the solvent was removed in vacuo, which was followed by extraction with 30 ml water and diethylether (50 ml×3). The organic layer was concentrated under reduced pressure and was purified by column chromatography (hexane/ethylacetate=8:1) to yield 2.73 g of 5-{2-chloro-4-(methylthio)phenyl}-2,2-dimethyl-4-phenyl-3(2H)-furanone. NMR: δ1.56 (s, 6H), 2.48 (s, 3H), 7.10 (dd, J=8.4, 1.5 Hz, 1H), 7.24 (m, 3H), 7.26 (m, 3H), 7.37 (d, J=1.5 Hz, 1H). IR (cm−1): 1698, 1620, 1394, 1235, 1176, 1144.

reactant | 1-{2-chloro-4-(methylthio)phenyl}-2-phenyl-ethanone | 3.05 g | ClC1=C(C=CC(=C1)SC)C(CC1=CC=CC=C1)=O | C15H13ClOS
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | α-bromoisobutyryl cyanide | 2.5 ml | BrC(C(=O)C#N)(C)C | C5H6BrNO
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-{2-chloro-4-(methylthio)phenyl}-2,2-dimethyl-4-phenyl-3(2H)-furanone | 2.73 g | ClC1=C(C=CC(=C1)SC)C1=C(C(C(O1)(C)C)=O)C1=CC=CC=C1 | C19H17ClO2S
